US04438128
1-Phenoxy-3-[2-(2-methylquinolin-4-ylamino)-ethylamino]-propan-2-ol
A solution of 4.4 g. phenyl glycidyl ether and 12 g. 2-methyl-4-(2-aminoethylamino)-quinoline in 60 ml. dimethylformamide is left to stand for 48 hours at ambient temperature. The reaction mixture is then taken up in methylene chloride, washed with water, dried and purified chromatographically on a silica gel column using, as elution agent, methylene chloride-methanoltriethylamine (26:3:0.6 v/v/v), and then recrystallized from isopropyl alcohol. There are obtained 3.5 g. (34% of theory) of the desired product in the form of colorless crystals; m.p. 151°-152° C.

reactant | phenyl glycidyl ether | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | 2-methyl-4-(2-aminoethylamino)-quinoline | CC1=NC2=CC=CC=C2C(=C1)NCCN | C12H15N3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Phenoxy-3-[2-(2-methylquinolin-4-ylamino)-ethylamino]-propan-2-ol | O(C1=CC=CC=C1)CC(CNCCNC1=CC(=NC2=CC=CC=C12)C)O | C21H25N3O2
